US07094801B2
Ex-44B: 3-Benzo[b]thiophen-2-yl-2-hydroxy-4-methoxy-benzaldehyde (Ex-44A, 57.4 mg, 0.202 mmol) was dissolved in acetone (5 mL) and potassium carbonate (31 mg, 0.22 mmol) was added. Methyl iodide (25 uL, 0.40 mmol) was added and the solution was heated to reflux for 3.5 h. After cooling, the crude reaction mix was concentrated on the rotavap. The resulting residue was taken up in 10 mL of a 1:9 mix of saturated, aqueous NH4Cl to water and extracted with EtOAc (2×15 mL). The organic phase was dried over sodium sulfate, filtered, and concentrated to provide 58.5 mg of 3-benzo[b]thiophen-2-yl-2,4-dimethoxy-benzaldehyde as an orange, oily residue which was used without further purification, 97% yield. 1H-NMR (CDCl3) δ 10.31 (s, 1H), 7.92 (d, J=9 Hz, 1H), 7.81–7.88 (m, 2H), 7.56 (d, 1H), 7.33–7.39 (m, 2H), 6.88 (d, J=9 Hz, 1H), 3.91 (s, 3H), 3.64 (s, 3H).

reactant | 3-Benzo[b]thiophen-2-yl-2-hydroxy-4-methoxy-benzaldehyde | 0.202 mmol, 57.4 mg | S1C2=C(C=C1C=1C(=C(C=O)C=CC1OC)O)C=CC=C2 | C16H12O3S
reactant | potassium carbonate | 0.22 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 0.40 mmol, 25 uL | CI | CH3I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-benzo[b]thiophen-2-yl-2,4-dimethoxy-benzaldehyde | 58.5 mg, 97% yield | S1C2=C(C=C1C=1C(=C(C=O)C=CC1OC)OC)C=CC=C2 | C17H14O3S
